US08455479B2
To a solution of (2-amino-benzyl)-carbamic acid tert-butyl ester [prepared from 2-aminobenzylamine and di-tert-butyl dicarbonate], (100 mg, 0.45 mmol) in acetic acid (2.46 mL), was added water (26 mL). Reaction mixture was cooled to 0° C. and a solution of sodium nitrite (62 mg, 0.9 mmol) in water (4.3 ml) was added. The reaction mixture was stirred for 30 min at the same temperature followed by addition of sodium azide (64 mg, 0.99 mmol). The reaction mixture was stirred at 0° C. for 30 min. When the reaction was complete as confirmed by TLC, reaction mixture was quenched by dropwise addition of 10 N NaOH (5.0 mL). The crude compound was extracted with ethylacetate (2×10 mL). Organic layer was separated, washed with brine, dried over Na2SO4 and the solvents were removed in vacuo to afford (2-azido-benzyl)-carbamic acid tert-butyl ester (105 mg, 96%) which was used as such without any further purification for the next step.

reactant | (2-amino-benzyl)-carbamic acid tert-butyl ester | 0.45 mmol, 100 mg | C(C)(C)(C)OC(NCC1=C(C=CC=C1)N)=O | C12H18N2O2
reactant | sodium nitrite | 0.9 mmol, 62 mg | N(=O)[O-].[Na+]
reactant | sodium azide | 0.99 mmol, 64 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 2.46 mL | C(C)(=O)O | C2H4O2
solvent | water | 4.3 ml | O | H2O
solvent | water | 26 mL | O | H2O
product | (2-azido-benzyl)-carbamic acid tert-butyl ester | 105 mg, 96% | C(C)(C)(C)OC(NCC1=C(C=CC=C1)N=[N+]=[N-])=O | C12H16N4O2
